US08563550B2
A mixture of 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole (1.0 g, 4.90 mmol) and 4-fluoroaniline (1.86 mL, 19.60 mmol) was heated under microwave irradiation at 135° C. for 15 minutes. On cooling, the mixture was diluted with dichloromethane (10 mL) and purified by column chromatography (Biotage™/Flash, silica, methanol:dichloromethane 0.2:9.8 to 1:9). The residue obtained was treated with dichloromethane (5 mL) and filtered to give (4-fluoro-phenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl-amine as a beige solid (117 mg, 10% yield).

reactant | 2-bromo-imidazo[2,1-b][1,3,4]thiadiazole | 4.90 mmol, 1.0 g | BrC1=NN2C(S1)=NC=C2 | C4H2BrN3S
reactant | 4-fluoroaniline | 19.60 mmol, 1.86 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4-fluoro-phenyl)-imidazo[2,1-b][1,3,4]thiadiazol-2-yl-amine | 117 mg, 10% yield | FC1=CC=C(C=C1)NC1=NN2C(S1)=NC=C2 | C10H7FN4S
